US06586447B1
10E. 4-(7-Methyl-1-naphthalen-2-ylmethyl-2-oxo-3,3-bis-pyridin-4-ylmethyl-2,3-dihydro-1H-indol-6-yl)-benzonitrile
To a solution of 6-bromo-7-methyl-1-naphthalen-2-ylmethyl-3,3-bis-pyridin-4-ylmethyl-1,3-dihydro-indol-2-one (200 mg, 0.365 mmol) in 4 ml of toluene and 2.5 ml of EtOH was added tetrakis(triphenylphosphine)palladium (17 mg, 0.015 mmol) under an atmosphere of dry N2, followed by the addition of a solution of aqueous sodium carbonate (Na2CO3) (77 mg, 0.738 mmol) dissolved in 2 ml of water and 4-cyanobenzene boronic acid (101 mg, 0.686 mmol). The reaction mixture was heated to 100° C. and stirred at this temperature overnight. The reaction mixture was concentrated under vacuum and then partitioned between DCM and saturated aqueous NaHCO3. The organic layer was dried over MgSO4, filtered and concentrated under vacuum to give the crude product. It was chromatographed on silica gel eluting MeOH/NH4OH/CHCl3/(3/0.3/97) to give the titled compound of Example 10 (194 mg, 93% yield).

reactant | 6-bromo-7-methyl-1-naphthalen-2-ylmethyl-3,3-bis-pyridin-4-ylmethyl-1,3-dihydro-indol-2-one | 0.365 mmol, 200 mg | BrC1=CC=C2C(C(N(C2=C1C)CC1=CC2=CC=CC=C2C=C1)=O)(CC1=CC=NC=C1)CC1=CC=NC=C1 | C32H26BrN3O
reactant | sodium carbonate | 0.738 mmol, 77 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-cyanobenzene boronic acid | 0.686 mmol, 101 mg | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
solvent | EtOH | 2.5 ml | CCO | C2H6O
solvent | water | 2 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.015 mmol, 17 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(7-Methyl-1-naphthalen-2-ylmethyl-2-oxo-3,3-bis-pyridin-4-ylmethyl-2,3-dihydro-1H-indol-6-yl)-benzonitrile | 194 mg, 93% yield | CC=1C(=CC=C2C(C(N(C12)CC1=CC2=CC=CC=C2C=C1)=O)(CC1=CC=NC=C1)CC1=CC=NC=C1)C1=CC=C(C#N)C=C1 | C39H30N4O
